2106-06-28 08:19:00 Physician Attending Progress Note
Chief Complaint: hypoxemic resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2106-6-28**] 05:30 AM
   Lasix with better resp status
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2106-6-28**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Dyspnea, Tachypnea
   Flowsheet Data as of  [**2106-6-28**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 74 (74 - 82) bpm
   BP: 128/68(83) {128/61(80) - 147/72(90)} mmHg
   RR: 27 (27 - 43) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                  60 mL
   PO:
                  60 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                    700 mL
   Urine:
   700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -640 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 97%
   ABG: 7.47/34/122/22/2
   Physical Examination
    Gen: young male, jild resp distress
   CV: tachy loud S2
   Chest: bilat rales, bronchial RLL
   Abd: obese soft NT
   Ext: no edema
   Neuro: alert and conversant
   Labs / Radiology
   12.5 g/dL
   304 K/uL
   108 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.6 mEq/L
   10 mg/dL
   101 mEq/L
   134 mEq/L
   36.4 %
   6.7 K/uL
        [image002.jpg]
                             [**2106-6-28**]  05:34 AM
                             [**2106-6-28**]  06:04 AM
   WBC
   6.7
   Hct
   36.4
   Plt
   304
   Cr
   0.6
   TropT
   <0.01
   TCO2
   25
   Glucose
   108
   Other labs: PT / PTT / INR:14.3/30.8/1.2, CK / CKMB /
   Troponin-T:4653/3/<0.01, ALT / AST:125/188, Alk Phos / T Bili:80/0.6,
   Differential-Neuts:73.5 %, Lymph:23.2 %, Mono:2.4 %, Eos:0.4 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.3 g/dL, LDH:1202 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 .H/O HYPERTENSION, BENIGN
 .H/O PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   34 yr old man with hypoxemic resp distress in setting of what initially
   was billed as a viral CAP but now has rLL infiltrate and diffuse bilat
   interstitial infiltrates
   1.       Hypox Resp Distress: DDx cardiogenic v non cardiogenic resp
   distress requiring non rebreather
   Cardiogenic plan - Plan further diuresis, follow up Echo
 his RV axis
   is old, but he may have underly9ng structural heart disease.
   Pulm plan: continue broad spectrum ABX, follow up flu, follow up sputum
   culture, induced sputum for PCP (high LDH), follow up HIV
   2.       HTN: diuresis and echo should be the plan
   3.       HypoNa: resolving- off HCTZ
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-6-28**] 07:35 AM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPI
   Communication:  with pt
   [**Name (NI) 36**] status: Full code
   Disposition :ICU
   Total time spent: 30

2106-06-29 03:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - HIV negative
   - Echo normal
   - Diuresing well
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2106-6-28**] 08:00 AM
   Levofloxacin - [**2106-6-28**] 10:00 AM
   Vancomycin - [**2106-6-28**] 08:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2106-6-28**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2106-6-28**] 11:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-6-29**] 03:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 34.5
C (94.1
   HR: 51 (51 - 91) bpm
   BP: 132/72(86) {124/60(80) - 156/120(126)} mmHg
   RR: 23 (23 - 43) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
             Total In:
                                                                  1,270 mL
                                                                     40 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  1,210 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                  2,140 mL
                                                                      0 mL
   Urine:
                                                                  2,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -870 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 99%
   ABG: 7.44/35/114/24/0
   PaO2 / FiO2: 114
   Physical Examination
    General: Alert, oriented, in mild respiratory distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP half way up neck, no LAD
   Lungs: Crackles bilaterally to mid chest, no wheezes, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: obese, soft, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis, trace edema
   b/l
   Neuro: AAOx3
   Labs / Radiology
    22
   407
   13.5
   94 mg/dL
   0.6 0.6mg/dL
   4.1
   13
   101 mEq/L
   135
   37.9
   8.9
        [image002.jpg]
                             [**2106-6-28**]  05:34 AM
                             [**2106-6-28**]  06:04 AM
                             [**2106-6-28**]  03:00 PM
                             [**2106-6-28**]  05:45 PM
   WBC
   6.7
   Hct
   36.4
   Plt
   304
   Cr
   0.6
   0.6
   TropT
   <0.01
   TCO2
   25
   25
   Glucose
   108
   103
   Other labs: PT / PTT / INR:14.3/30.8/1.2, CK / CKMB /
   Troponin-T:4307/3/<0.01, ALT / AST:116/139, Alk Phos / T Bili:80/0.6,
   Differential-Neuts:73.5 %, Lymph:23.2 %, Mono:2.4 %, Eos:0.4 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.3 g/dL, LDH:1115 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.7 mg/dL
   INR 1.3
   CK 4307
   Lactate 1
   LDH 1115
   Micro
 Legionella neg
   Assessment and Plan
   34 yo M with recent viral prodrome 2 weeks ago admitted with fevers,
   concerning for viral/bacterial PNA and transferred to the MICU with
   worsening hypoxia.
   #  Respiratory Distress - Hypoxic, ddx includes viral/bacterial pna vs
   volume overload. LDH noted to be high, but HIV neg, making PCP
   [**Name Initial (PRE) 8494**]. History of presentation concerning for bacterial PNA after
   viral infection compounded by volume overload/capillary leak. EKG
   consistent w/ RVH and family h/o early cardiac disease
   - continue board spectrum coverage with vancomycin, ceftriaxone,
   levofloxacin for CAP requiring ICU admission.  PICC line okay to use.
   - trial of IV lasix
   - ECHO normal, f/u BNP
   - DFA neg here
   - titrate O2 as tolerated
   - f/u urine/blood cx, influenza DFA
   - induced sputum for cx and PCP as above
   # Hyponatremia - Urine Na<10, hypovolemic on exam, on thiazide at home.
   S/P 3L NS now resolved.
   - continue to trend [**Hospital1 7**], IVF prn
   - holding HCTZ
   .
   # h/o HTN - RVH strain on EKG, prior CTA neg for PE in past
   - hold home meds
   - ECHO normal as above
   # FEN: NPO for now, consider PO intake if can tolerate [**Month (only) **] oxygen
   requirements
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # Code: full
   # Communication: Patient
   # Disposition: ICU
   ICU Care
   Nutrition: NPO for now
   Glycemic Control: infxn in the past, doesn
t want poor glycemic control
   Lines:
   20 Gauge - [**2106-6-28**] 07:35 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: ICU

2106-06-30 11:33:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2106-6-29**] 09:00 AM
   Weaned to 6 liters nasal cannula
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2106-6-29**] 11:00 AM
   Ceftriaxone - [**2106-6-30**] 08:30 AM
   Vancomycin - [**2106-6-30**] 09:10 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-6-30**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-6-30**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.3
   HR: 73 (60 - 82) bpm
   BP: 142/76(92) {112/35(55) - 148/85(99)} mmHg
   RR: 21 (19 - 39) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79 kg (admission): 87 kg
   Height: 65 Inch
             Total In:
                                                                  1,002 mL
                                                                    350 mL
   PO:
                                                                    440 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    562 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    600 mL
   Urine:
                                                                  1,650 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -648 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   Gen: sitting up in bed, nad
   CV: rr
   Chest: bibasilar rales not clear w cough
   Abd: soft
   Ext: no edema
   Labs / Radiology
   12.9 g/dL
   499 K/uL
   93 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.4 mEq/L
   13 mg/dL
   103 mEq/L
   138 mEq/L
   37.9 %
   10.0 K/uL
        [image002.jpg]
                             [**2106-6-28**]  05:34 AM
                             [**2106-6-28**]  06:04 AM
                             [**2106-6-28**]  03:00 PM
                             [**2106-6-28**]  05:45 PM
                             [**2106-6-29**]  03:54 AM
                             [**2106-6-30**]  06:03 AM
   WBC
   6.7
   8.9
   10.0
   Hct
   36.4
   37.9
   37.9
   Plt
   [**Telephone/Fax (3) 8524**]
   Cr
   0.6
   0.6
   0.6
   0.7
   TropT
   <0.01
   TCO2
   25
   25
   Glucose
   108
   103
   94
   93
   Other labs: PT / PTT / INR:14.2/27.8/1.2, CK / CKMB /
   Troponin-T:4307/3/<0.01, ALT / AST:116/139, Alk Phos / T Bili:80/0.6,
   Differential-Neuts:73.5 %, Lymph:23.2 %, Mono:2.4 %, Eos:0.4 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.3 g/dL, LDH:1115 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 .H/O HYPERTENSION, BENIGN
 .H/O PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   34 yr old man with hypoxemic resp distress in setting of initial viral
   versus CAP
   1.       Hypox Resp Distress: infectious  then non cardiogenic resp
   distress requiring non rebreather x24 hours.
   Continue broad spectrum ABX, follow up sputum culture, send viral
   cultures as parainflu could be an issue. Allow to autodiurese.
   2. HypoNa: resolving- off HCTZ
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   PICC Line - [**2106-6-29**] 09:00 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: po diet
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: